US04134980
1-(6,7-Dimethoxy-4(3H)-quinazolinone-3-yl)-2-bromo-ethane was prepared analogous to Example 1 (a) by reaction of 6,7-dimethoxy-4(3H)-quinazolinone with 1,2-dibromoethane in dimethylformamide. Viscous oil. Rf -value (chloroform/methanol = 9/1) : 0.85.

reactant | 6,7-dimethoxy-4(3H)-quinazolinone | COC=1C=C2C(NC=NC2=CC1OC)=O | C10H10N2O3
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(6,7-Dimethoxy-4(3H)-quinazolinone-3-yl)-2-bromo-ethane | COC=1C=C2C(N(C=NC2=CC1OC)CCBr)=O | C12H13BrN2O3
